US05840722
Methyl 3-benzyloxy-3-phenyl-2-[(4,6-dimethoxy-2-pyrimidinyl) thio]butyrate [sic]
11 g (25 mmol) of methyl 3-benzyloxy-3-phenyl-2-hydroxybutyrate (comp. 1.1) are dissolved in 50 ml of dichloromethane, 3 g (30 mmol) of triethylamine are added and, while stirring, 3.2 g (28 mmol) of methanesulfonyl chloride are added dropwise. The mixture is stirred at room temperature for 2 hours, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue is taken up in DMF and added dropwise to a suspension of 12.9 g (75 mmol) of 4,6-dimethoxypyrimidine-2-thiol and 8.4 g (100 nmol) of sodium DMF at 0° C. After stirring at room temperature for 2 hours and at 60° C. for a further 2 hours, the mixture is poured into 1 1 of ice-water, and the precipitate is filtered off with suction. Drying results in 3.2 g of a white powder.

reactant | methyl 3-benzyloxy-3-phenyl-2-hydroxybutyrate | 25 mmol, 11 g | C(C1=CC=CC=C1)OC(C(C(=O)OC)O)(C)C1=CC=CC=C1 | C18H20O4
reactant | triethylamine | 30 mmol, 3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 28 mmol, 3.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4,6-dimethoxypyrimidine-2-thiol | 75 mmol, 12.9 g | COC1=NC(=NC(=C1)OC)S | C6H8N2O2S
reactant | sodium DMF | 100 nmol, 8.4 g | [Na].CN(C)C=O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl 3-benzyloxy-3-phenyl-2-[(4,6-dimethoxy-2-pyrimidinyl) thio]butyrate | 3.2 g, Yield: 29% | C(C1=CC=CC=C1)OC(C(C(=O)OC)SC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C24H26N2O5S
